US04391962
Comparative experiments were carried out in which in place of N-octadecyl gluconamide, the suspension stabilizers Gohsenol KP 08, Armotan® MP (sorbitan monopalmitate), Armotan® ML (sorbitan monolaurate) Tween® 20 (polyoxyethylene (20) monolaurate) and Tween® 21 (polyoxyethylene (4) monolaurate) were used. Only the results obtained with Tween® 21 (polyoxyethylene (4) monolaurate) compared with those obtained with N-octadecyl gluconamide. When only Gohsenol KP 08 was used, the results obtained were distinctly poorer. In all other cases destabilization of the suspension was observed after 1 to 2 hours polymerization.

reactant | N-octadecyl gluconamide | C(CCCCCCCCCCCCCCCCC)NC(=O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C24H49NO6
reactant | Gohsenol | C=CO | C2H4O
reactant | ML | CCCCCCCCCCCC(=O)OCC([C@@H]1[C@@H]([C@H](CO1)O)O)O | C18H34O6
product | polyoxyethylene (4) monolaurate | CCCCCCCCCCCC(=O)OCCO | C14H28O3
